US05286728
The starting material is prepared as follows: 3 g of isatic acid anhydride are dissolved in 50 ml of distilled hexametapol(=hexamethylphosphoric acid triamide). The solution is cooled to 5°, and 0.96 g of 55% NaH (freed of oil with hexane) is added. The mixture is stirred for 30 minutes at RT and then 5.67 g of O-(2-isopropyloxyethyl) tosylate are added. The mixture is stirred for 30 minutes at RT and for one hour at 50°. The mixture is left to stand overnight and is poured onto ice, and the organic layer is separated off and washed with water. The mixture is concentrated by evaporation, and the residue is digested with ether and filtered off with suction, yielding N-(2-isopropyloxyethyl)isatic acid anhydride, m.p. 107°-108°.

reactant | isatic acid anhydride | 3 g | C=1(C(N)=CC=CC1)C(=O)C(=O)OC(C(C=1C(N)=CC=CC1)=O)=O | C16H12N2O5
reactant | NaH | 0.96 g | [H-].[Na+]
reactant | O-(2-isopropyloxyethyl) tosylate | 5.67 g | S(=O)(=O)(OCCOC(C)C)C1=CC=C(C)C=C1 | C12H18O4S
solvent | hexametapol | 50 ml | O=P(N(C)C)(N(C)C)N(C)C | C6H18N3OP
solvent | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | N-(2-isopropyloxyethyl)isatic acid anhydride | C(C)(C)OCCNC=1C(=CC=CC1)C(=O)C(=O)OC(C(C=1C(NCCOC(C)C)=CC=CC1)=O)=O | C26H32N2O7
